US04814265
(a) Synthesis of --hydroxycycloheptimidazole
First, 60 g of 2-methylthiocycloheptimidazole as synthesized according to Synthetic example 1 (c) with reference to the method disclosed in Journal of the American Chemical Society, vol. 76, pages 3352 and 3353 (1954) was added to 300 ml of concentrated hydrochloric acid (hydrogen chloride 35%), and refluxed with heating for 2 hours and 30 minutes. Then, 500 ml of ethanol was added, and after stirring at room temperature, deposited crystals were collected by filtration. The crystals were dissolved in 0.5 of water, and pH was adjusted to around 7 with sodium bicarbonate. Deposited crystals were collected by filtration, washed with water and dried.

reactant | 2-methylthiocycloheptimidazole | 60 g | CSC=1N=C2C(N1)=CC=CC=C2 | C9H8N2S
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | hydroxycycloheptimidazole | OC=1N=C2C(N1)=CC=CC=C2 | C8H6N2O
